US07053212B2
Step A: 2,4,6-Trimethyl-N-[3-methyl-4-(tetrahydro-pyran-2-yloxy)-benzyl]-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide
To a solution of [3-methyl-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine (0.062 g, 0.15 mmol) in 0.4 mL methylene chloride was added triethylamine (0.06 mL, 0.45 mmol) and 2-mesitylene sulfonyl chloride (0.066 g, 0.3 mmol). The reaction mixture was stirred at room temperature for 24 hr. PS-isocyanate resin (0.050 g) and PS-trisamine resin (0.050 g) were added and the reaction mixture was stirred for 2 hr. at room temperature. The resin was filtered off with the aid of methylene chloride. The filtrate was concentrated to give the title compound of Step A (0.089 g). MS 593.3 (M+1)+

reactant | [3-methyl-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 0.15 mmol, 0.062 g | CC=1C=C(CNC2=CC=C(C=C2)OCCN2CCCC2)C=CC1OC1OCCCC1 | C25H34N2O3
reactant | triethylamine | 0.45 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
reactant | 2-mesitylene sulfonyl chloride | 0.3 mmol, 0.066 g | C1(=C(C(=CC(=C1)C)C)S(=O)(=O)Cl)C | C9H11ClO2S
reactant | isocyanate | 0.050 g | [N-]=C=O
reactant | trisamine | 0.050 g | C(C(CO)(CO)N)O | C4H11NO3
solvent | methylene chloride | 0.4 mL | C(Cl)Cl | CH2Cl2
product | 2,4,6-Trimethyl-N-[3-methyl-4-(tetrahydro-pyran-2-yloxy)-benzyl]-N-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-benzenesulfonamide | 0.089 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)N(C1=CC=C(C=C1)OCCN1CCCC1)CC1=CC(=C(C=C1)OC1OCCCC1)C | C34H44N2O5S
